US04755594
Phenylacetonitrile (5.85 g, 50 mmol) in DMSO (dimethylsulfoxide) (20 mL) is added dropwise over 45 min to a slurry of oil-free NaH (3.0 g, 125 mmol) in stirred DMSO (100 mL) at 25° under N2. Vigorous gas evolution occurs. After a further 30 min 1,2-dibromoethane (14.1 g, 75 mmol) in DMSO (20 mL) is added dropwise over 1 h. The reaction mixture turns purple, heats up to about 50°, and further gas evolution occurs. After a further 1 h the reaction mixture is poured slowly onto ice water (250 mL, gas evolution), and is extracted with ether (3×50 mL). The combined extracts are washed with water (2×100 mL) and saturated brine (100 mL) and dried (MgSO4). The solvent is removed under reduced pressure to give 1-phenylcyclopropane carbonitrile (6.58 g, 92%) as a mobile brown oil. Nmr δ (CDCl3) 7.25-7.40 (5H, m), 1.6-1.8, 1.2-1.45 (2H and 2H, AA'BB').

reactant | Phenylacetonitrile | 50 mmol, 5.85 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | NaH | 125 mmol, 3.0 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 75 mmol, 14.1 g | BrCCBr | C2H4Br2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 1-phenylcyclopropane carbonitrile | 6.58 g, 92% | C1(=CC=CC=C1)C1(CC1)C#N | C10H9N
